US04556737
Dissolved in 2 ml of water was 4.45 g of 2-{2-(2,3-dihydroxypropoxy)phenoxy}ethyldimethylsulfonium p-toluenesulfonate. To the solution was added a solution of 6.30 g of sodium picrylsulfonate in 10 ml of water. The crystals formed were filtered off and recrystallized from ethanol, giving 5.10 g of 2-{2-(2,3-dihydroxypropoxy)phenoxy}ethyldimethylsulfonium picrylsulfonate in 90.1%, M.P. 124° to 125° C.

reactant | 2-{2-(2,3-dihydroxypropoxy)phenoxy}ethyldimethylsulfonium p-toluenesulfonate | 4.45 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.OC(COC1=C(OCC[S+](C)C)C=CC=C1)CO
reactant | sodium picrylsulfonate | 6.30 g | C1(=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1[N+](=O)[O-])S(=O)(=O)[O-].[Na+]
solvent | water | 2 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 2-{2-(2,3-dihydroxypropoxy)phenoxy}ethyldimethylsulfonium picrylsulfonate | 5.10 g | C1(=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1[N+](=O)[O-])S(=O)(=O)[O-].OC(COC1=C(OCC[S+](C)C)C=CC=C1)CO | InChI=1S/C13H21O4S.C6H3N3O9S/c1-18(2)8-7-16-12-5-3-4-6-13(12)17-10-11(15)9-14;10-7(11)3-1-4(8(12)13)6(19(16,17)18)5(2-3)9(14)15/h3-6,11,14-15H,7-10H2,1-2H3;1-2H,(H,16,17,18)/q+1;/p-1
